US04318854
3-Hydroxy-1-[4-chloro-2-(2-fluorobenzoyl)phenyl]propyne
A mixture of 0.37 g (0.5 mmole) of dichlorobis (triphenylphosphine) palladium II, 70 mg (0.35 mmole) of cuprous iodide, 36.1 g (0.1 mole) of 5-chloro-2'-fluoro-2-iodobenzophenone and 12 ml (0.2 mole) of propargyl alcohol in 200 ml of diethylamine was stirred at room temperature for 4 days. The mixture was concentrated at reduced pressure and the residue was partitioned between ether and water. The ether layer was washed with water, dried over anhydrous sodium sulfate and concentrated at reduced pressure to give the product as an amber oil.

reactant | 5-chloro-2'-fluoro-2-iodobenzophenone | 0.1 mole, 36.1 g | ClC=1C=CC(=C(C(=O)C2=C(C=CC=C2)F)C1)I | C13H7ClFIO
reactant | propargyl alcohol | 0.2 mole, 12 ml | C(C#C)O | C3H4O
solvent | diethylamine | 200 ml | C(C)NCC | C4H11N
product | 3-Hydroxy-1-[4-chloro-2-(2-fluorobenzoyl)phenyl]propyne | OCC#CC1=C(C=C(C=C1)Cl)C(C1=C(C=CC=C1)F)=O | C16H10ClFO2
